US06103910
b) (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 220 mg (0.36 mmol) (R)-1-[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl) -phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 1.5 ml trifluoroacetic acid was stirred for 4 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 135 mg (74%) of the title compound as a light brown powder. MS m/e (%): 527 (M+Na+, 73), 522 (M+NH4+, 75), 505 (M+H+, 100).

reactant | (R)-1-[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl) -phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.36 mmol, 220 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=CC(=CC(=C1)C1=NOC(N1)=O)OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C30H40N4O10
solvent | trifluoroacetic acid | 1.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-5-(5-oxo-4,5-dihydro-[1,2,4]oxadiazol-3-yl)-phenoxy]-acetyl]-pyrrolidine-2-carboxylic acid | 135 mg, 74% | C(=O)(O)[C@@H]1N(CCC1)C(COC=1C=C(OCC(=O)N2[C@H](CCC2)C(=O)O)C=C(C1)C1=NOC(N1)=O)=O | C22H24N4O10
